US06627629B2
Part B: Preparation of 1-methyl-5-(3-nitrophenyl)-tetrazole
In a dry flask N-methyl-3-nitro-benzamide (30.0 g, 167 mmol) was dissolved in acetonitrile (835 mL) and sodium azide (10.9 g, 167 mmol) was added and the reaction cooled in an ice bath. Triflic anhydride (29 mL, 172 mmol) was added dropwise to maintain the internal temperature below 3° C. The reaction mixture was stirred for 3.5 hours at 0° C. The reaction mixture was poured into IN aqueous sodium hydroxide (100 mL). The organic layer was separated dried with sodium sulfate, filtered, and concentrated in vacuo to 50 mL. The solution was diluted with dichloromethane and added water to precipitate a yellow solid (18.46 g, 54%). A second crop of crystals was obtained by concentrated the filtrate in vacuo and adding it to boiling ethyl acetate. Upon cooling to 0° C., 6.07 g (18%) of additional material was isolated upon filtration. further purification. 1H NMR (300 MHz, CDCl3), δ: 3.67 (m, 1H), 8.49 (dd, J=8, J′=2, 1H), 8.31 (d, J=8, 1H), 7.94 (dd, J=8, J′=8, 1H), 4.22 (s, 3H).

reactant | N-methyl-3-nitro-benzamide | 167 mmol, 30.0 g | CNC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C8H8N2O3
reactant | sodium azide | 167 mmol, 10.9 g | [N-]=[N+]=[N-].[Na+]
reactant | Triflic anhydride | 172 mmol, 29 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | sodium hydroxide | 100 mL | [OH-].[Na+]
solvent | acetonitrile | 835 mL | C(C)#N | C2H3N
product | 1-methyl-5-(3-nitrophenyl)-tetrazole | 6.07 g, 18% | CN1N=NN=C1C1=CC(=CC=C1)[N+](=O)[O-] | C8H7N5O2
